US08633189B2
To a microwave tube charged with 4-bromo-2-cyclopentyl-5-nitrophenyl methyl carbonate (500 mg, 1.45 mmol), Pd(dppf)Cl2 (96 mg, 0.13 mmol), potassium trifluoro-methyl-boron (177 mg, 1.45 mmol) and cesium carbonate (1420 mg, 4.36 mmol) was added tetrahydrofuran (2.5 mL) and water (1.25 mL). The reaction heated at 110° C. for 35 min under microwave irradiation. The reaction was partitioned between ethyl acetate and water. The organic layer was separated, dried over Na2SO4, filtered and concentrated in vacuo to yield a brown oil. Purification by silica gel chromatography (0-6% ethyl acetate/hexanes) provided 2-cyclopentyl-4-methyl-5-nitro-phenol (167 mg, 52% yield). 1H NMR (400.0 MHz, DMSO-d6) δ 10.08 (s, 1H), 7.43-7.38 (m, 1H), 7.22 (s, 1H), 3.28-3.21 (m, 1H), 2.43 (s, 3H), 1.96-1.91 (m, 2H), 1.80-1.51 (m, 6H).

reactant | 4-bromo-2-cyclopentyl-5-nitrophenyl methyl carbonate | 1.45 mmol, 500 mg | C(OC1=C(C=C(C(=C1)[N+](=O)[O-])Br)C1CCCC1)(OC)=O | C13H14BrNO5
reactant | potassium trifluoro-methyl-boron | 1.45 mmol, 177 mg | FC([B])(F)F.[K]
reactant | cesium carbonate | 4.36 mmol, 1420 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | tetrahydrofuran | 2.5 mL | O1CCCC1 | C4H8O
catalyst | Pd(dppf)Cl2 | 0.13 mmol, 96 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | water | 1.25 mL | O | H2O
product | 2-cyclopentyl-4-methyl-5-nitro-phenol | 167 mg, 52% yield | C1(CCCC1)C1=C(C=C(C(=C1)C)[N+](=O)[O-])O | C12H15NO3
